US05919793
Triethylamine (5.4 ml) was added to a solution of 4-iodobenzoyl chloride (5.06 g) in dichloromethane (30 ml) at 5° C. Glycine methyl ester hydrochloride (2.4 g) was then added to the reaction mixture and the mixture was stirred at 5° C. for 2 hours. The mixture was then stirred at ambient temperature overnight. Dichloromethane (100 ml) was added and the mixture was washed with water (2×100 ml), dried (MgSO4) and evaported. The residue was triturated with pentane to give a solid which was collected by filtration to give methyl 4-iodohippurate, m.p. 166-168° C. NMR: 3.65(3H,s), 4.0(2H,d), 7.65(2H,m), 7.88(2H,m) and 9.0(1H,m); m/z 320(M+H).

reactant | Triethylamine | 5.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-iodobenzoyl chloride | 5.06 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | Glycine methyl ester hydrochloride | 2.4 g | Cl.COC(CN)=O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl 4-iodohippurate | IC1=CC=C(C(NCC(=O)OC)=O)C=C1 | C10H10INO3
